US05834463
1-Benzyl-4-methyl-3-(2-propen-1-yl)-1,3-dihydro-1,5-benzodiazepin-2(2H)-one
Using 1-benzyl-4-methyl-1,3-dihydro-1,5-benzodiazepin-2(2H)-one and 3-bromopropene, the titled compound was synthesized in substantially the same manner as in Working Example 21 as an oily product in a yield of 85%.

reactant | 1-benzyl-4-methyl-1,3-dihydro-1,5-benzodiazepin-2(2H)-one | C(C1=CC=CC=C1)N1C(CC(=NC2=C1C=CC=C2)C)=O | C17H16N2O
reactant | 3-bromopropene | BrCC=C | C3H5Br
product | 1-Benzyl-4-methyl-3-(2-propen-1-yl)-1,3-dihydro-1,5-benzodiazepin-2(2H)-one | yield of 85% | C(C1=CC=CC=C1)N1C(C(C(=NC2=C1C=CC=C2)C)CC=C)=O | C20H20N2O
